US05506234
0.5 g (0.0013 mol) 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carbaldehyde-oxime is suspended in 25 ml of tetrahydrofuran and mixed with 5 ml of sodium hypochlorite solution under protective gas (argon). After 20 minutes no more initial material can be detected by thin-layer chromatography. 0.7 ml of methylpropargylether is instilled over 2.5 hours then the mixture is stirred for another hour. After it is left standing overnight it is diluted with ethyl acetate, washed neutral with water, dried and concentrated by evaporation. From the evaporation residue 0.031 g (5% of theory) of 6-chloro-5-(4-chlorobenzyl)-4-methoxymethyl-3-(5-methoxymethylisoxazol-3-yl)-β-carboline, melting point 198°-200° C., is obtained by chromatography on silica gel and recrystallization from ethanol/ether.

reactant | 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carbaldehyde-oxime | 0.0013 mol, 0.5 g | ClC1=CC=C(CC2=C3C=4C(=C(N=CC4NC3=CC=C2)C=NO)COC)C=C1 | C21H18ClN3O2
reactant | sodium hypochlorite | 5 ml | Cl[O-].[Na+]
reactant | methylpropargylether | 0.7 ml | COCC#C | C4H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-5-(4-chlorobenzyl)-4-methoxymethyl-3-(5-methoxymethylisoxazol-3-yl)-β-carboline | 0.031 g, 5% | ClC=1C(=C2C=3C(=C(N=CC3NC2=CC1)C1=NOC(=C1)COC)COC)CC1=CC=C(C=C1)Cl | C25H21Cl2N3O3
